US09233898B2
Sodium dihydrogen phosphate (58.3 g) was added to a solution of 50 g of diethyl phenylmalonate in 350 ml of ethanol. The mixture was cooled to 5-7° C. and a solution of 16.7 g of sodium borohydride in 38 ml of 0.2% NaOH was gradually added. The mixture was stirred for additional 2 hours and the Ethanol was distilled out. The reaction was quenched by adding 132 ml of water followed by heating to 50° C.-60° C. for 2 hours. The solution was then basified with 50% NaOH and extracted with ethyl acetate. The organic layer was washed with water and evaporated to dryness. The precipitate was crystallized from toluene. 20 g of 2-phenyl-1,3-propanediol was obtained with a yield of 63%.

reactant | Sodium dihydrogen phosphate | 58.3 g | P(=O)(O)(O)[O-].[Na+]
reactant | diethyl phenylmalonate | 50 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | sodium borohydride | 16.7 g | [BH4-].[Na+]
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | NaOH | 38 ml | [OH-].[Na+]
product | 2-phenyl-1,3-propanediol | 20 g, yield of 63% | C1(=CC=CC=C1)C(CO)CO | C9H12O2
